US07015218B1
N-(3-Cyano-4-neopentyloxyphenyl)-1-cyclohexyl-5-methylpyrazole-4-carboxamide 1 hydrate
1-Cyclohexyl-5-methylpyrazole-4-carboxylic acid (1.2 g), 5-amino-2-neopentyloxybenzonitrile (1.1 g), triethylamine (1.7 g) and diethyl cyanophosphate (1.4 g) were added to dimethylformamide (15 ml) and the mixture was stirred at room temperature for 1 h. The reaction mixture was added into water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. Methanol was added to the residue to allow crystallization. The crystals were recrystallized from hydrous dimethylformamide to give the title compound (1.2 g), melting point: 126–128° C.

reactant | 1-Cyclohexyl-5-methylpyrazole-4-carboxylic acid | 1.2 g | C1(CCCCC1)N1N=CC(=C1C)C(=O)O | C11H16N2O2
reactant | 5-amino-2-neopentyloxybenzonitrile | 1.1 g | NC=1C=CC(=C(C#N)C1)OCC(C)(C)C | C12H16N2O
reactant | triethylamine | 1.7 g | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 1.4 g | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(3-Cyano-4-neopentyloxyphenyl)-1-cyclohexyl-5-methylpyrazole-4-carboxamide | 1.2 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C=1C=NN(C1C)C1CCCCC1 | C23H30N4O2
